US05807886
(a) 6-Nitro-1-(phenylmethyl)aminoindane hydrochloride
To 6-nitro-1-aminoindane hydrochloride (1.90 g, 8.85 mmol) in DMF (30 ml) was added triethylamine (250 ml, 18.06 mmol) followed by benzyl bromide (1.07 ml, 9.03 mmol). The mixture was warmed to room temperature, stirred for 3 hr, dumped into water (100 ml), and extracted with ethyl acetate (3×70 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered through a small plug of silica gel and reduced to a syrup. The titled compound was isolated as the hydrochloride salt: (1.34 g, 50%); m.p. 234°-235° C.

reactant | 6-nitro-1-aminoindane hydrochloride | 8.85 mmol, 1.90 g | Cl.[N+](=O)([O-])C1=CC=C2CCC(C2=C1)N
reactant | triethylamine | 18.06 mmol, 250 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 9.03 mmol, 1.07 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-Nitro-1-(phenylmethyl)aminoindane hydrochloride | Cl.[N+](=O)([O-])C1=CC=C2CCC(C2=C1)NCC1=CC=CC=C1 | InChI=1S/C16H16N2O2.ClH/c19-18(20)14-8-6-13-7-9-16(15(13)10-14)17-11-12-4-2-1-3-5-12;/h1-6,8,10,16-17H,7,9,11H2;1H
